US08791161B2
4-bromo-N-[5-chloro-2-(methylthio)phenyl]benzenesulfonamide
Following General Procedure B, the title compound was prepared from 5-chloro-2-(methylthio)aniline and 4-bromo-benzenesulfonyl chloride.

reactant | 5-chloro-2-(methylthio)aniline | ClC=1C=CC(=C(N)C1)SC | C7H8ClNS
reactant | 4-bromo-benzenesulfonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
product | 4-bromo-N-[5-chloro-2-(methylthio)phenyl]benzenesulfonamide | BrC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)Cl)SC | C13H11BrClNO2S2
